US08012980B2
a) (E)-3-(3-Bromophenyl)but-2-enoic acid
To a stirred mixture of 60% sodium hydride (2.01 g) in dry THF (100 mL) was added triethyl phosphonoacetate (10.1 mL) at 0° C. under nitrogen. The resulting mixture was added dropwise to a solution of 1-(3-bromophenyl)ethanone (10.0 g) in THF (100 mL) at reflux and the reaction heated at reflux overnight. The reaction mixture was diluted with water (300 mL), and extracted with dichloromethane (350 mL). The organic was dried (MgSO4), filtered and evaporated to afford a yellow oil. The oil was dissolved in methanol (100 mL), sodium hydroxide (6.03 g) and water (50 mL) added and the mixture was heated at 50° C. for 2 h. The reaction mixture was evaporated to leave an aqueous solution which was extracted twice with diethyl ether and the organic extracts were discarded. The aqueous solution was acidified with aqueous 2M HCl and then extracted with ethyl acetate (300 mL). The organic was dried (MgSO4), filtered and evaporated to afford the subtitle compound (11.70 g) as a solid.

reactant | sodium hydride | 2.01 g | [H-].[Na+]
reactant | 1-(3-bromophenyl)ethanone | 10.0 g | BrC=1C=C(C=CC1)C(C)=O | C8H7BrO
reactant | sodium hydroxide | 6.03 g | [OH-].[Na+]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 300 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | (E)-3-(3-Bromophenyl)but-2-enoic acid | 11.70 g | BrC=1C=C(C=CC1)/C(=C/C(=O)O)/C | C10H9BrO2
